US08030320B2
84 mg of N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]-amino}propyl]-1-oxo-2-(1-propylbutyl)-1,2-dihydroisoquinoline-5-carboxamide are dissolved in 4 cm3 of ethyl ether at a temperature close to 20° C. 0.2 cm3 of a 4M solution of hydrochloric acid in dioxane is added while stirring and under argon. The reaction mixture precipitates. The stirring is stopped. The supernatant is removed and 5 cm3 of ethyl ether are added. This operation is carried out three times. The last suspension is concentrated under reduced pressure (5 kPa). 87 mg of N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-1-oxo-2-(1-propylbutyl)-1,2-dihydroisoquinoline-5-carboxamide hydrochloride (1:1) are obtained in the form of a white solid.

reactant | N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]-amino}propyl]-1-oxo-2-(1-propylbutyl)-1,2-dihydroisoquinoline-5-carboxamide | 84 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CNCC1=CC(=CC=C1)C(F)(F)F)O)NC(=O)C=1C=2C=CN(C(C2C=CC1)=O)C(CCC)CCC | C35H40F3N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl ether | 4 cm3 | C(C)OCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-1-oxo-2-(1-propylbutyl)-1,2-dihydroisoquinoline-5-carboxamide hydrochloride | 87 mg | Cl.C(C1=CC=CC=C1)[C@@H]([C@@H](CNCC1=CC(=CC=C1)C(F)(F)F)O)NC(=O)C=1C=2C=CN(C(C2C=CC1)=O)C(CCC)CCC | InChI=1S/C35H40F3N3O3.ClH/c1-3-10-27(11-4-2)41-19-18-28-29(16-9-17-30(28)34(41)44)33(43)40-31(21-24-12-6-5-7-13-24)32(42)23-39-22-25-14-8-15-26(20-25)35(36,37)38;/h5-9,12-20,27,31-32,39,42H,3-4,10-11,21-23H2,1-2H3,(H,40,43);1H/t31-,32+;/m0./s1
